// Generated for: spectre
// Generated on: Mar 12 10:33:01 2024
// Design library name: LDO
// Design cell name: tb_STB
// Design view name: schematic
simulator lang=spectre
global 0
parameters IBP ILOAD=25m w_M13 l_M13 nf_M13 w_M12 l_M12 nf_M12 w_M11 l_M11 nf_M11 w_M2 l_M2 nf_M2 w_M10 l_M10 nf_M10 w_M9 l_M9 nf_M9 w_M6 l_M6 nf_M6 w_M5 l_M5 nf_M5 w_M4 l_M4 nf_M4 w_M1 l_M1 nf_M1 w_M0 l_M0 nf_M0
include "/data/PDK/pdk_installed/tsmc180bcd_g2/pdk/pdk_1p6m_2/tsmc18/../models/spectre/c018bcd_gen2_v1d6_usage.scs" section=pre_simu
include "/data/PDK/pdk_installed/tsmc180bcd_g2/pdk/pdk_1p6m_2/tsmc18/../models/spectre/c018bcd_gen2_v1d6_usage.scs" section=tt_lib
// Library name: LDO
// Cell name: EA_LDO
// View name: schematic
subckt EA_LDO IBP INN INP VDD VOUT VSS
    M13 (net25 net25 VSS VSS) nch_5_mac l=l_M13 w=w_M13 multi=1 nf=nf_M13 sigma=1 sd=540.0n ad=((nf_M13-int(nf_M13/2)*2)*(4.8e-07+((nf_M13-1)*5.4e-07)/2+0)+(nf_M13+1-int((nf_M13+1)/2)*2)*((nf_M13/2)*5.4e-07))*w_M13 as=((nf_M13-int(nf_M13/2)*2)*(4.8e-07+((nf_M13-1)*5.4e-07)/2+0)+(nf_M13+1-int((nf_M13+1)/2)*2)*(4.8e-07+4.8e-07+(nf_M13/2-1)*5.4e-07+0+0))*w_M13 pd=(nf_M13-int(nf_M13/2)*2)*((4.8e-07+((nf_M13-1)*5.4e-07)/2+0)*2+(nf_M13+1)*w_M13)+(nf_M13+1-int((nf_M13+1)/2)*2)*(((nf_M13/2)*5.4e-07)*2+nf_M13*w_M13) ps=(nf_M13-int(nf_M13/2)*2)*((4.8e-07+((nf_M13-1)*5.4e-07)/2+0)*2+(nf_M13+1)*w_M13)+(nf_M13+1-int((nf_M13+1)/2)*2)*((4.8e-07+4.8e-07+(nf_M13/2-1)*5.4e-07+0+0)*2+(nf_M13+2)*w_M13) nrd=(nf_M13-int(nf_M13/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(nf_M13-1))/w_M13)+(nf_M13+1-int((nf_M13+1)/2)*2)*(2.7e-07/nf_M13/w_M13) nrs=(nf_M13-int(nf_M13/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(nf_M13-1))/w_M13)+(nf_M13+1-int((nf_M13+1)/2)*2)*(2.7e-07*2.7e-07*2.7e-07/(2.7e-07*2.7e-07*(nf_M13-2)+2.7e-07*(2.7e-07+2.7e-07))/w_M13) sa=1/(1 / ((4.8e-07 + l_M13/2) + (5.4e-07 + l_M13)*(1-1)/3.5 ) )-(0.5*l_M13) sb=1/(1 / ((4.8e-07 + l_M13/2) + (5.4e-07 + l_M13)*(1-1)/3.5 ) )-(0.5*l_M13) sca=0 scb=0 scc=0 mismatchflag=1
    M12 (net19 net21 VSS VSS) nch_5_mac l=l_M12 w=w_M12 multi=1 nf=nf_M12 sigma=1 sd=540.0n ad=((nf_M12-int(nf_M12/2)*2)*(4.8e-07+((nf_M12-1)*5.4e-07)/2+0)+(nf_M12+1-int((nf_M12+1)/2)*2)*((nf_M12/2)*5.4e-07))*w_M12 as=((nf_M12-int(nf_M12/2)*2)*(4.8e-07+((nf_M12-1)*5.4e-07)/2+0)+(nf_M12+1-int((nf_M12+1)/2)*2)*(4.8e-07+4.8e-07+(nf_M12/2-1)*5.4e-07+0+0))*w_M12 pd=(nf_M12-int(nf_M12/2)*2)*((4.8e-07+((nf_M12-1)*5.4e-07)/2+0)*2+(nf_M12+1)*w_M12)+(nf_M12+1-int((nf_M12+1)/2)*2)*(((nf_M12/2)*5.4e-07)*2+nf_M12*w_M12) ps=(nf_M12-int(nf_M12/2)*2)*((4.8e-07+((nf_M12-1)*5.4e-07)/2+0)*2+(nf_M12+1)*w_M12)+(nf_M12+1-int((nf_M12+1)/2)*2)*((4.8e-07+4.8e-07+(nf_M12/2-1)*5.4e-07+0+0)*2+(nf_M12+2)*w_M12) nrd=(nf_M12-int(nf_M12/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(nf_M12-1))/w_M12)+(nf_M12+1-int((nf_M12+1)/2)*2)*(2.7e-07/nf_M12/w_M12) nrs=(nf_M12-int(nf_M12/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(nf_M12-1))/w_M12)+(nf_M12+1-int((nf_M12+1)/2)*2)*(2.7e-07*2.7e-07*2.7e-07/(2.7e-07*2.7e-07*(nf_M12-2)+2.7e-07*(2.7e-07+2.7e-07))/w_M12) sa=1/(1 / ((4.8e-07 + l_M12/2) + (5.4e-07 + l_M12)*(1-1)/3.5 ) )-(0.5*l_M12) sb=1/(1 / ((4.8e-07 + l_M12/2) + (5.4e-07 + l_M12)*(1-1)/3.5 ) )-(0.5*l_M12) sca=0 scb=0 scc=0 mismatchflag=1
    M11 (net21 net21 VSS VSS) nch_5_mac l=l_M11 w=w_M11 multi=1 nf=nf_M11 sigma=1 sd=540.0n ad=((nf_M11-int(nf_M11/2)*2)*(4.8e-07+((nf_M11-1)*5.4e-07)/2+0)+(nf_M11+1-int((nf_M11+1)/2)*2)*((nf_M11/2)*5.4e-07))*w_M11 as=((nf_M11-int(nf_M11/2)*2)*(4.8e-07+((nf_M11-1)*5.4e-07)/2+0)+(nf_M11+1-int((nf_M11+1)/2)*2)*(4.8e-07+4.8e-07+(nf_M11/2-1)*5.4e-07+0+0))*w_M11 pd=(nf_M11-int(nf_M11/2)*2)*((4.8e-07+((nf_M11-1)*5.4e-07)/2+0)*2+(nf_M11+1)*w_M11)+(nf_M11+1-int((nf_M11+1)/2)*2)*(((nf_M11/2)*5.4e-07)*2+nf_M11*w_M11) ps=(nf_M11-int(nf_M11/2)*2)*((4.8e-07+((nf_M11-1)*5.4e-07)/2+0)*2+(nf_M11+1)*w_M11)+(nf_M11+1-int((nf_M11+1)/2)*2)*((4.8e-07+4.8e-07+(nf_M11/2-1)*5.4e-07+0+0)*2+(nf_M11+2)*w_M11) nrd=(nf_M11-int(nf_M11/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(nf_M11-1))/w_M11)+(nf_M11+1-int((nf_M11+1)/2)*2)*(2.7e-07/nf_M11/w_M11) nrs=(nf_M11-int(nf_M11/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(nf_M11-1))/w_M11)+(nf_M11+1-int((nf_M11+1)/2)*2)*(2.7e-07*2.7e-07*2.7e-07/(2.7e-07*2.7e-07*(nf_M11-2)+2.7e-07*(2.7e-07+2.7e-07))/w_M11) sa=1/(1 / ((4.8e-07 + l_M11/2) + (5.4e-07 + l_M11)*(1-1)/3.5 ) )-(0.5*l_M11) sb=1/(1 / ((4.8e-07 + l_M11/2) + (5.4e-07 + l_M11)*(1-1)/3.5 ) )-(0.5*l_M11) sca=0 scb=0 scc=0 mismatchflag=1
    M2 (VOUT net25 VSS VSS) nch_5_mac l=l_M2 w=w_M2 multi=1 nf=nf_M2 sigma=1 sd=540.0n ad=((nf_M2-int(nf_M2/2)*2)*(4.8e-07+((nf_M2-1)*5.4e-07)/2+0)+(nf_M2+1-int((nf_M2+1)/2)*2)*((nf_M2/2)*5.4e-07))*w_M2 as=((nf_M2-int(nf_M2/2)*2)*(4.8e-07+((nf_M2-1)*5.4e-07)/2+0)+(nf_M2+1-int((nf_M2+1)/2)*2)*(4.8e-07+4.8e-07+(nf_M2/2-1)*5.4e-07+0+0))*w_M2 pd=(nf_M2-int(nf_M2/2)*2)*((4.8e-07+((nf_M2-1)*5.4e-07)/2+0)*2+(nf_M2+1)*w_M2)+(nf_M2+1-int((nf_M2+1)/2)*2)*(((nf_M2/2)*5.4e-07)*2+nf_M2*w_M2) ps=(nf_M2-int(nf_M2/2)*2)*((4.8e-07+((nf_M2-1)*5.4e-07)/2+0)*2+(nf_M2+1)*w_M2)+(nf_M2+1-int((nf_M2+1)/2)*2)*((4.8e-07+4.8e-07+(nf_M2/2-1)*5.4e-07+0+0)*2+(nf_M2+2)*w_M2) nrd=(nf_M2-int(nf_M2/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(nf_M2-1))/w_M2)+(nf_M2+1-int((nf_M2+1)/2)*2)*(2.7e-07/nf_M2/w_M2) nrs=(nf_M2-int(nf_M2/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(nf_M2-1))/w_M2)+(nf_M2+1-int((nf_M2+1)/2)*2)*(2.7e-07*2.7e-07*2.7e-07/(2.7e-07*2.7e-07*(nf_M2-2)+2.7e-07*(2.7e-07+2.7e-07))/w_M2) sa=1/(1 / ((4.8e-07 + l_M2/2) + (5.4e-07 + l_M2)*(1-1)/3.5 ) )-(0.5*l_M2) sb=1/(1 / ((4.8e-07 + l_M2/2) + (5.4e-07 + l_M2)*(1-1)/3.5 ) )-(0.5*l_M2) sca=0 scb=0 scc=0 mismatchflag=1
    M10 (net25 INP net017 VDD) pch_5_mac l=l_M10 w=w_M10 multi=1 nf=nf_M10 sigma=1 sd=540.0n ad=((nf_M10-int(nf_M10/2)*2)*(4.8e-07+((nf_M10-1)*5.4e-07)/2+0)+(nf_M10+1-int((nf_M10+1)/2)*2)*((nf_M10/2)*5.4e-07))*w_M10 as=((nf_M10-int(nf_M10/2)*2)*(4.8e-07+((nf_M10-1)*5.4e-07)/2+0)+(nf_M10+1-int((nf_M10+1)/2)*2)*(4.8e-07+4.8e-07+(nf_M10/2-1)*5.4e-07+0+0))*w_M10 pd=(nf_M10-int(nf_M10/2)*2)*((4.8e-07+((nf_M10-1)*5.4e-07)/2+0)*2+(nf_M10+1)*w_M10)+(nf_M10+1-int((nf_M10+1)/2)*2)*(((nf_M10/2)*5.4e-07)*2+nf_M10*w_M10) ps=(nf_M10-int(nf_M10/2)*2)*((4.8e-07+((nf_M10-1)*5.4e-07)/2+0)*2+(nf_M10+1)*w_M10)+(nf_M10+1-int((nf_M10+1)/2)*2)*((4.8e-07+4.8e-07+(nf_M10/2-1)*5.4e-07+0+0)*2+(nf_M10+2)*w_M10) nrd=(nf_M10-int(nf_M10/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(nf_M10-1))/w_M10)+(nf_M10+1-int((nf_M10+1)/2)*2)*(2.7e-07/nf_M10/w_M10) nrs=(nf_M10-int(nf_M10/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(nf_M10-1))/w_M10)+(nf_M10+1-int((nf_M10+1)/2)*2)*(2.7e-07*2.7e-07*2.7e-07/(2.7e-07*2.7e-07*(nf_M10-2)+2.7e-07*(2.7e-07+2.7e-07))/w_M10) sa=1/(1 / ((4.8e-07 + l_M10/2) + (5.4e-07 + l_M10)*(1-1)/3.5 ) )-(0.5*l_M10) sb=/(1 / ((4.8e-07 + l_M10/2) + (5.4e-07 + l_M10)*(1-1)/3.5 ) )-(0.5*l_M10) sca=0 scb=0 scc=0 mismatchflag=1
    M9 (net21 INN net017 VDD) pch_5_mac l=l_M9 w=w_M9 multi=1 nf=nf_M9 sigma=1 sd=540.0n ad=((nf_M9-int(nf_M9/2)*2)*(4.8e-07+((nf_M9-1)*5.4e-07)/2+0)+(nf_M9+1-int((nf_M9+1)/2)*2)*((nf_M9/2)*5.4e-07))*w_M9 as=((nf_M9-int(nf_M9/2)*2)*(4.8e-07+((nf_M9-1)*5.4e-07)/2+0)+(nf_M9+1-int((nf_M9+1)/2)*2)*(4.8e-07+4.8e-07+(nf_M9/2-1)*5.4e-07+0+0))*w_M9 pd=(nf_M9-int(nf_M9/2)*2)*((4.8e-07+((nf_M9-1)*5.4e-07)/2+0)*2+(nf_M9+1)*w_M9)+(nf_M9+1-int((nf_M9+1)/2)*2)*(((nf_M9/2)*5.4e-07)*2+nf_M9*w_M9) ps=(nf_M9-int(nf_M9/2)*2)*((4.8e-07+((nf_M9-1)*5.4e-07)/2+0)*2+(nf_M9+1)*w_M9)+(nf_M9+1-int((nf_M9+1)/2)*2)*((4.8e-07+4.8e-07+(nf_M9/2-1)*5.4e-07+0+0)*2+(nf_M9+2)*w_M9) nrd=(nf_M9-int(nf_M9/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(nf_M9-1))/w_M9)+(nf_M9+1-int((nf_M9+1)/2)*2)*(2.7e-07/nf_M9/w_M9) nrs=(nf_M9-int(nf_M9/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(nf_M9-1))/w_M9)+(nf_M9+1-int((nf_M9+1)/2)*2)*(2.7e-07*2.7e-07*2.7e-07/(2.7e-07*2.7e-07*(nf_M9-2)+2.7e-07*(2.7e-07+2.7e-07))/w_M9) sa=1/(1 / ((4.8e-07 + l_M9/2) + (5.4e-07 + l_M9)*(1-1)/3.5 ) )-(0.5*l_M9) sb=/(1 / ((4.8e-07 + l_M9/2) + (5.4e-07 + l_M9)*(1-1)/3.5 ) )-(0.5*l_M9) sca=0 scb=0 scc=0 mismatchflag=1
    M6 (VOUT net19 VDD VDD) pch_5_mac l=l_M6 w=w_M6 multi=1 nf=nf_M6 sigma=1 sd=540.0n ad=((nf_M6-int(nf_M6/2)*2)*(4.8e-07+((nf_M6-1)*5.4e-07)/2+0)+(nf_M6+1-int((nf_M6+1)/2)*2)*((nf_M6/2)*5.4e-07))*w_M6 as=((nf_M6-int(nf_M6/2)*2)*(4.8e-07+((nf_M6-1)*5.4e-07)/2+0)+(nf_M6+1-int((nf_M6+1)/2)*2)*(4.8e-07+4.8e-07+(nf_M6/2-1)*5.4e-07+0+0))*w_M6 pd=(nf_M6-int(nf_M6/2)*2)*((4.8e-07+((nf_M6-1)*5.4e-07)/2+0)*2+(nf_M6+1)*w_M6)+(nf_M6+1-int((nf_M6+1)/2)*2)*(((nf_M6/2)*5.4e-07)*2+nf_M6*w_M6) ps=(nf_M6-int(nf_M6/2)*2)*((4.8e-07+((nf_M6-1)*5.4e-07)/2+0)*2+(nf_M6+1)*w_M6)+(nf_M6+1-int((nf_M6+1)/2)*2)*((4.8e-07+4.8e-07+(nf_M6/2-1)*5.4e-07+0+0)*2+(nf_M6+2)*w_M6) nrd=(nf_M6-int(nf_M6/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(nf_M6-1))/w_M6)+(nf_M6+1-int((nf_M6+1)/2)*2)*(2.7e-07/nf_M6/w_M6) nrs=(nf_M6-int(nf_M6/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(nf_M6-1))/w_M6)+(nf_M6+1-int((nf_M6+1)/2)*2)*(2.7e-07*2.7e-07*2.7e-07/(2.7e-07*2.7e-07*(nf_M6-2)+2.7e-07*(2.7e-07+2.7e-07))/w_M6) sa=1/(1 / ((4.8e-07 + l_M6/2) + (5.4e-07 + l_M6)*(1-1)/3.5 ) )-(0.5*l_M6) sb=/(1 / ((4.8e-07 + l_M6/2) + (5.4e-07 + l_M6)*(1-1)/3.5 ) )-(0.5*l_M6) sca=0 scb=0 scc=0 mismatchflag=1
    M5 (net19 net19 VDD VDD) pch_5_mac l=l_M5 w=w_M5 multi=1 nf=nf_M5 sigma=1 sd=540.0n ad=((nf_M5-int(nf_M5/2)*2)*(4.8e-07+((nf_M5-1)*5.4e-07)/2+0)+(nf_M5+1-int((nf_M5+1)/2)*2)*((nf_M5/2)*5.4e-07))*w_M5 as=((nf_M5-int(nf_M5/2)*2)*(4.8e-07+((nf_M5-1)*5.4e-07)/2+0)+(nf_M5+1-int((nf_M5+1)/2)*2)*(4.8e-07+4.8e-07+(nf_M5/2-1)*5.4e-07+0+0))*w_M5 pd=(nf_M5-int(nf_M5/2)*2)*((4.8e-07+((nf_M5-1)*5.4e-07)/2+0)*2+(nf_M5+1)*w_M5)+(nf_M5+1-int((nf_M5+1)/2)*2)*(((nf_M5/2)*5.4e-07)*2+nf_M5*w_M5) ps=(nf_M5-int(nf_M5/2)*2)*((4.8e-07+((nf_M5-1)*5.4e-07)/2+0)*2+(nf_M5+1)*w_M5)+(nf_M5+1-int((nf_M5+1)/2)*2)*((4.8e-07+4.8e-07+(nf_M5/2-1)*5.4e-07+0+0)*2+(nf_M5+2)*w_M5) nrd=(nf_M5-int(nf_M5/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(nf_M5-1))/w_M5)+(nf_M5+1-int((nf_M5+1)/2)*2)*(2.7e-07/nf_M5/w_M5) nrs=(nf_M5-int(nf_M5/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(nf_M5-1))/w_M5)+(nf_M5+1-int((nf_M5+1)/2)*2)*(2.7e-07*2.7e-07*2.7e-07/(2.7e-07*2.7e-07*(nf_M5-2)+2.7e-07*(2.7e-07+2.7e-07))/w_M5) sa=1/(1 / ((4.8e-07 + l_M5/2) + (5.4e-07 + l_M5)*(1-1)/3.5 ) )-(0.5*l_M5) sb=/(1 / ((4.8e-07 + l_M5/2) + (5.4e-07 + l_M5)*(1-1)/3.5 ) )-(0.5*l_M5) sca=0 scb=0 scc=0 mismatchflag=1
    M4 (IBP IBP VDD VDD) pch_5_mac l=l_M4 w=w_M4 multi=1 nf=nf_M4 sigma=1 sd=540.0n ad=((nf_M4-int(nf_M4/2)*2)*(4.8e-07+((nf_M4-1)*5.4e-07)/2+0)+(nf_M4+1-int((nf_M4+1)/2)*2)*((nf_M4/2)*5.4e-07))*w_M4 as=((nf_M4-int(nf_M4/2)*2)*(4.8e-07+((nf_M4-1)*5.4e-07)/2+0)+(nf_M4+1-int((nf_M4+1)/2)*2)*(4.8e-07+4.8e-07+(nf_M4/2-1)*5.4e-07+0+0))*w_M4 pd=(nf_M4-int(nf_M4/2)*2)*((4.8e-07+((nf_M4-1)*5.4e-07)/2+0)*2+(nf_M4+1)*w_M4)+(nf_M4+1-int((nf_M4+1)/2)*2)*(((nf_M4/2)*5.4e-07)*2+nf_M4*w_M4) ps=(nf_M4-int(nf_M4/2)*2)*((4.8e-07+((nf_M4-1)*5.4e-07)/2+0)*2+(nf_M4+1)*w_M4)+(nf_M4+1-int((nf_M4+1)/2)*2)*((4.8e-07+4.8e-07+(nf_M4/2-1)*5.4e-07+0+0)*2+(nf_M4+2)*w_M4) nrd=(nf_M4-int(nf_M4/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(nf_M4-1))/w_M4)+(nf_M4+1-int((nf_M4+1)/2)*2)*(2.7e-07/nf_M4/w_M4) nrs=(nf_M4-int(nf_M4/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(nf_M4-1))/w_M4)+(nf_M4+1-int((nf_M4+1)/2)*2)*(2.7e-07*2.7e-07*2.7e-07/(2.7e-07*2.7e-07*(nf_M4-2)+2.7e-07*(2.7e-07+2.7e-07))/w_M4) sa=1/(1 / ((4.8e-07 + l_M4/2) + (5.4e-07 + l_M4)*(1-1)/3.5 ) )-(0.5*l_M4) sb=/(1 / ((4.8e-07 + l_M4/2) + (5.4e-07 + l_M4)*(1-1)/3.5 ) )-(0.5*l_M4) sca=0 scb=0 scc=0 mismatchflag=1
    M1 (net017 IBP VDD VDD) pch_5_mac l=l_M1 w=w_M1 multi=1 nf=nf_M1 sigma=1 sd=540.0n ad=((nf_M1-int(nf_M1/2)*2)*(4.8e-07+((nf_M1-1)*5.4e-07)/2+0)+(nf_M1+1-int((nf_M1+1)/2)*2)*((nf_M1/2)*5.4e-07))*w_M1 as=((nf_M1-int(nf_M1/2)*2)*(4.8e-07+((nf_M1-1)*5.4e-07)/2+0)+(nf_M1+1-int((nf_M1+1)/2)*2)*(4.8e-07+4.8e-07+(nf_M1/2-1)*5.4e-07+0+0))*w_M1 pd=(nf_M1-int(nf_M1/2)*2)*((4.8e-07+((nf_M1-1)*5.4e-07)/2+0)*2+(nf_M1+1)*w_M1)+(nf_M1+1-int((nf_M1+1)/2)*2)*(((nf_M1/2)*5.4e-07)*2+nf_M1*w_M1) ps=(nf_M1-int(nf_M1/2)*2)*((4.8e-07+((nf_M1-1)*5.4e-07)/2+0)*2+(nf_M1+1)*w_M1)+(nf_M1+1-int((nf_M1+1)/2)*2)*((4.8e-07+4.8e-07+(nf_M1/2-1)*5.4e-07+0+0)*2+(nf_M1+2)*w_M1) nrd=(nf_M1-int(nf_M1/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(nf_M1-1))/w_M1)+(nf_M1+1-int((nf_M1+1)/2)*2)*(2.7e-07/nf_M1/w_M1) nrs=(nf_M1-int(nf_M1/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(nf_M1-1))/w_M1)+(nf_M1+1-int((nf_M1+1)/2)*2)*(2.7e-07*2.7e-07*2.7e-07/(2.7e-07*2.7e-07*(nf_M1-2)+2.7e-07*(2.7e-07+2.7e-07))/w_M1) sa=1/(1 / ((4.8e-07 + l_M1/2) + (5.4e-07 + l_M1)*(1-1)/3.5 ) )-(0.5*l_M1) sb=/(1 / ((4.8e-07 + l_M1/2) + (5.4e-07 + l_M1)*(1-1)/3.5 ) )-(0.5*l_M1) sca=0 scb=0 scc=0 mismatchflag=1
ends EA_LDO
// End of subcircuit definition.
// Library name: LDO
// Cell name: tb_STB
// View name: schematic
V0 (VDD 0) vsource dc=3.6 type=dc
V2 (VREF 0) vsource dc=1.2 type=dc
V1 (VSS 0) vsource dc=0 type=dc
I1 (VOUT VSS) isource dc=ILOAD type=dc
I0 (IBP 0) isource dc=IBP type=dc
I18 (IBP VREF net8 VDD VG VSS) EA_LDO
R0 (VOUT VFB) resistor r=12K
R1 (VFB VSS) resistor r=24K
C0 (VG VOUT) capacitor c=80p
C1 (VOUT VSS) capacitor c=1n
M0 (VOUT VG VDD VDD) pch_5_mac l=l_M0 w=w_M0 multi=1 nf=nf_M0 sigma=1 sd=540.0n ad=((nf_M0-int(nf_M0/2)*2)*(4.8e-07+((nf_M0-1)*5.4e-07)/2+0)+(nf_M0+1-int((nf_M0+1)/2)*2)*((nf_M0/2)*5.4e-07))*w_M0 as=((nf_M0-int(nf_M0/2)*2)*(4.8e-07+((nf_M0-1)*5.4e-07)/2+0)+(nf_M0+1-int((nf_M0+1)/2)*2)*(4.8e-07+4.8e-07+(nf_M0/2-1)*5.4e-07+0+0))*w_M0 pd=(nf_M0-int(nf_M0/2)*2)*((4.8e-07+((nf_M0-1)*5.4e-07)/2+0)*2+(nf_M0+1)*w_M0)+(nf_M0+1-int((nf_M0+1)/2)*2)*(((nf_M0/2)*5.4e-07)*2+nf_M0*w_M0) ps=(nf_M0-int(nf_M0/2)*2)*((4.8e-07+((nf_M0-1)*5.4e-07)/2+0)*2+(nf_M0+1)*w_M0)+(nf_M0+1-int((nf_M0+1)/2)*2)*((4.8e-07+4.8e-07+(nf_M0/2-1)*5.4e-07+0+0)*2+(nf_M0+2)*w_M0) nrd=(nf_M0-int(nf_M0/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(nf_M0-1))/w_M0)+(nf_M0+1-int((nf_M0+1)/2)*2)*(2.7e-07/nf_M0/w_M0) nrs=(nf_M0-int(nf_M0/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(nf_M0-1))/w_M0)+(nf_M0+1-int((nf_M0+1)/2)*2)*(2.7e-07*2.7e-07*2.7e-07/(2.7e-07*2.7e-07*(nf_M0-2)+2.7e-07*(2.7e-07+2.7e-07))/w_M0) sa=1/(1 / ((4.8e-07 + l_M0/2) + (5.4e-07 + l_M0)*(1-1)/3.5 ) )-(0.5*l_M0) sb=/(1 / ((4.8e-07 + l_M0/2) + (5.4e-07 + l_M0)*(1-1)/3.5 ) )-(0.5*l_M0) sca=0 scb=0 scc=0 mismatchflag=1
IPRB0 (VFB net8) iprobe
simulatorOptions options psfversion="1.1.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
stb stb start=1 stop=1G probe=IPRB0 localgnd=VSS annotate=status 
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
